US09303012B2
g) 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid [(S)-2-cyclopropyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-methyl-amide
In analogy to the procure described in Example 16 b), 6-cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid [(S)-2-cyclopropyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide was reacted with methyl iodide (CAN 74-88-4) in the presence of sodium hydride to give the title compound as colorless oil; MS (EI): m/e=448.2 [MH]+.

reactant | 6-cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid [(S)-2-cyclopropyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide | C1(CC1)C[C@@H](C1=NOC(=N1)C)NC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)OCC1CC1 | C21H25F2N5O3
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
product | 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid [(S)-2-cyclopropyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-methyl-amide | C1(CC1)C[C@@H](C1=NOC(=N1)C)N(C(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)OCC1CC1)C | C22H27F2N5O3
